US04908384
c. Dodecyl Oxirane
In a flask equipped with a mechanical stirrer and an addition funnel was placed 19.8 g (0.1 mole) of 1-tetradecene and 150 ml of CH2Cl2. The solution was stirred and a suspension of 23 g(0.106 mole) of m-chloroperbenzoic acid in 250 ml of CH2Cl2 was added dropwise. After stirring overnight, the CH2Cl2 solution was washed with 10% aqueous NaHSO3, saturated NaHCO3 solution and then dried over Na2SO4. The residue, after removal of solvent, was distilled through a vigreux column to obtain the title compound, bp 78°-81°/0.01 mmHg as a colorless liquid.

reactant | 1-tetradecene | 0.1 mole, 19.8 g | C=CCCCCCCCCCCCC | C14H28
reactant | m-chloroperbenzoic acid | 0.106 mole, 23 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | Dodecyl Oxirane | C(CCCCCCCCCCC)C1OC1 | C14H28O
